US09301951B2
2-methyl-1-(3-((4-(piperidin-1-yl)-2-(4-((3-(trifluoromethyl)benzyl)-carbamoyl)pyridin-2-yl)phenyl)carbamoyl)phenyl)-5,8,11-trioxa-2-azatetradecan-14-oic acid
Into a 50-mL round-bottom flask, was placed a solution of tert-butyl 3-(2-(2-(2-((3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)-carbamoyl)benzyl)(methyl)amino)ethoxy)ethoxy)ethoxy)propanoate (264 mg, 0.31 mmol, 1.00 equiv) in dichloromethane (2 mL), and trifluoroacetic acid (1 mL). The resulting solution was stirred for 2 h at room temperature. The resulting mixture was concentrated under vacuum. The crude product (200 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 46 mg (13%) of as a yellow solid. 1H-NMR (300 MHz, CD3OD, ppm): δ 8.941-8.924 (d, J=5.1 Hz, 1H), 8.665-8.635 (d, J=9.0 Hz, 1H), 8.436 (s, 1H), 8.159-8.081 (m, 3H), 7.888-7.863 (m, 1H), 7.792-7.563 (m, 7H), 4.720 (s, 2H), 4.533 (s, 2H), 3.895-3.862 (m, 6H), 3.685-3.560 (m, 14H), 3.410 (s, 2H), 2.910 (s, 3H), 2.509-2.468 (m, 2H), 2.020-2.004 (s, 4H), 1.816-1.799 (s, 2H). MS (ES, m/z): 806 [M+H]+.

reactant | tert-butyl 3-(2-(2-(2-((3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)-carbamoyl)benzyl)(methyl)amino)ethoxy)ethoxy)ethoxy)propanoate | 0.31 mmol, 264 mg, 1.00 equiv | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(=O)C=2C=C(CN(CCOCCOCCOCCC(=O)OC(C)(C)C)C)C=CC2)C=CC1)(F)F | C47H58F3N5O7
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-methyl-1-(3-((4-(piperidin-1-yl)-2-(4-((3-(trifluoromethyl)benzyl)-carbamoyl)pyridin-2-yl)phenyl)carbamoyl)phenyl)-5,8,11-trioxa-2-azatetradecan-14-oic acid | CN(CC1=CC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)=O)CCOCCOCCOCCC(=O)O | C43H50F3N5O7
